US08623877B2
N-Methyl-6-[7-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl]-nicotinamide
7-((2S,3′S)-2-Methyl-1,3′-bipyrrolidinyl-1′-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine (150 mg, 0.50 mmol) was added to a mixture of tris(dibenzylideneacetone)-dipalladium (6.88 mg, 0.007), R-BINAP (22.5 mg, 0.022 mmol), sodium tert-butoxide (69.8 mg, 0.72 mmol) and 6-bromo-N-methyl-nicotinamide (118 mg, 0.55 mmol) in 6 mL of toluene and the mixture was degassed (vacuum, 3×). The reaction mixture was heated at 85° C. for 17 h, and then it was partitioned between ethyl acetate and water. The aqueous phase washed with ethyl acetate and then the organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated to leave 200 mg of an oil.

reactant | 7-((2S,3′S)-2-Methyl-1,3′-bipyrrolidinyl-1′-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.50 mmol, 150 mg | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C1=CC2=C(CCNCC2)C=C1 | C19H29N3
reactant | sodium tert-butoxide | 0.72 mmol, 69.8 mg | CC(C)([O-])C.[Na+]
reactant | 6-bromo-N-methyl-nicotinamide | 0.55 mmol, 118 mg | BrC1=NC=C(C(=O)NC)C=C1 | C7H7BrN2O
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)-dipalladium | 6.88 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-Methyl-6-[7-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,4,5-tetrahydro-benzo[d]azepin-3-yl]-nicotinamide | 200 mg | CNC(C1=CN=C(C=C1)N1CCC2=C(CC1)C=C(C=C2)N2C[C@H](CC2)N2[C@H](CCC2)C)=O | C26H35N5O
